US05026856
3.38 g of 2-benzyl-4-(tertbutyloxycarbonylaminomethyl)isoindoline was dissolved in 10 ml of chloroform and 1.27 g of sodium carbonate was added to it. To this solution was added dropwise 2.04 g of benzyl chloroformate under ice-cooling and stirring, and the mixture was stirred for 2 hours at room temperature. Insoluble materials were removed by filtration and the filtrate was concentrated. Recrystallization from ether gave 3.48 g of 2-benzyloxycarbonyl-4-(tertbutyloxycarbonylaminomethyl)isoindoline.

reactant | 2-benzyl-4-(tertbutyloxycarbonylaminomethyl)isoindoline | 3.38 g | C(C1=CC=CC=C1)N1CC2=CC=CC(=C2C1)CNC(=O)OC(C)(C)C | C21H26N2O2
reactant | sodium carbonate | 1.27 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | benzyl chloroformate | 2.04 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-benzyloxycarbonyl-4-(tertbutyloxycarbonylaminomethyl)isoindoline | 3.48 g | C(C1=CC=CC=C1)OC(=O)N1CC2=CC=CC(=C2C1)CNC(=O)OC(C)(C)C | C22H26N2O4
